US07494962B2
The same experiment as in Example 2 was carried out, except for using 45 ml (0.045 mol) of a 1 M 2,4,6-trimethylphenylmagnesium bromide solution in CPME instead of 45 ml of the 1 M phenylmagnesium bromide solution in THF. The resulting reaction mixture was analyzed by gas chromatography to confirm that 2-mesityl-2-propanol and α-methyl-2,4,6-trimethylstyrene were obtained in a yield of 81.9% and 1.6%, respectively.

reactant | 2,4,6-trimethylphenylmagnesium bromide | 1 M | CC1=C(C(=CC(=C1)C)C)[Mg]Br
reactant | phenylmagnesium bromide | 1 M | C1(=CC=CC=C1)[Mg]Br
reactant | 2-mesityl-2-propanol | C1(=C(C(=CC(=C1)C)C)C(C)(C)O)C | C12H18O
solvent | CPME | COC1CCCC1 | C6H12O
solvent | THF | C1CCOC1 | C4H8O
product | α-methyl-2,4,6-trimethylstyrene | yield of 81.9% | CC(=C)C1=C(C=C(C=C1C)C)C | C12H16
